US06362177B1
A solution of 1-(tert-butoxycarbonyl)-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine (2.29 g, 5.16 mmol) in CH3OH (40 mL) was treated with 1 N HCl-Et2O (55 mL). The reaction mixture was stirred at 25° C. for 15 h and the solvent was removed under reduced pressure. 2 N aqueous NaOH solution (100 mL) was added to the reaction mixture and the mixture was extracted with EtOAc (3×100 mL). The combined extracts were washed with brine and dried (K2CO3). The solvent was removed under reduced pressure to afford a white solid which was purified by column chromatography (SiO2, CH3OH/CH2Cl2/Et3N=7/6/1)) to give 4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine as a white solid (1.27 g, 72%): The purity was determined by RPLC/MS (98%); ESI/MS m/e 344.1 (M++H, C16H20F3N3O2).

reactant | 1-(tert-butoxycarbonyl)-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine | 5.16 mmol, 2.29 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C21H28F3N3O4
reactant | HCl Et2O | 1 N, 55 mL | Cl.CCOCC
solvent | CH3OH | 40 mL | CO | CH4O
product | 4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine | 1.27 g, 72% | FC(C=1C=C(C(=O)NCC(=O)NCC2CCNCC2)C=CC1)(F)F | C16H20F3N3O2
